### PR TITLE
[Merged by Bors] - feat(NumberField/MixedSpace): add polar coordinates change of variables (part 1)

### PR DESCRIPTION
**Pull request by xroblot**
We define two polar coordinate changes of variables for the mixed space `ℝ^r₁ × ℂ^r₂` associated
to a number field `K` of signature `(r₁, r₂)`.

- The first one is `mixedEmbedding.polarCoord` and has value in `ℝ^r₁ × (ℝ ⨯ ℝ)^r₂`.

- The second is`mixedEmbedding.polarSpaceCoord` and has value in `ℝ^(r₁+r₂) × ℝ^r₂`.

This second change of variable is of interest for computing the volume of a set with enough symmetry. This part will be developed in a following PR. 

This PR is part of the proof of the Analytic Class Number Formula.

---

- [x] depends on: #21629 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by tb65536** [comment]
Could you give some motivation? Maybe in the PR description or module docstring?

**Comment by xroblot** [comment]
> Could you give some motivation? Maybe in the PR description or module docstring?

Sure. I added the mention: This PR is part of the proof of the Analytic Class Number Formula.

File: Mathlib/LinearAlgebra/Determinant.lean [hunk 1]
```diff
@@ -336,6 +336,15 @@ theorem bot_lt_ker_of_det_eq_zero {𝕜 : Type*} [Field 𝕜] [Module 𝕜 M] {f
 lemma det_mulLeft (a : R) : (mulLeft R a).det = a := by simp
 lemma det_mulRight (a : R) : (mulRight R a).det = a := by simp
 
+theorem det_prodMap [Module.Free R M] [Module.Free R M'] [Module.Finite R M] [Module.Finite R M']
+    (f : Module.End R M) (f' : Module.End R M') :
+    (prodMap f f').det = f.det * f'.det := by
+  classical
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Determinant.lean:342]:
```suggestion
```

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean [hunk 2]
```diff
@@ -0,0 +1,334 @@
...
+open scoped Classical in
+instance : IsAddHaarMeasure (volume : Measure (realMixedSpace K)) := prod.instIsAddHaarMeasure _ _
+
+/--
+The polar coordinate partial homeomorphism of `ℝ^r₁ × (ℝ × ℝ)^r₂` defined as the identity on
+the first component and mapping `(rᵢ cos θᵢ, rᵢ sin θᵢ)ᵢ` to `(rᵢ, θᵢ)ᵢ` on the second component.
+-/
+@[simps! apply target]
+def polarCoordReal : PartialHomeomorph (realMixedSpace K) (realMixedSpace K) :=
+  ((PartialHomeomorph.refl _).prod (PartialHomeomorph.pi fun _ ↦ polarCoord))
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean:79]:
```suggestion
  (PartialHomeomorph.refl _).prod (PartialHomeomorph.pi fun _ ↦ polarCoord)
```

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean [hunk 3]
```diff
@@ -0,0 +1,334 @@
...
+/--
+The polar coordinate partial homeomorphism between the mixed space `ℝ^r₁ × ℂ^r₂` and
+`ℝ^r₁ × (ℝ × ℝ)^r₂` defined as the identity on the first component and mapping `(zᵢ)ᵢ` to
+`(‖zᵢ‖, Arg zᵢ)ᵢ` on the second component.
+-/
+@[simps!]
+protected noncomputable def polarCoord : PartialHomeomorph (mixedSpace K) (realMixedSpace K) :=
+  (PartialHomeomorph.refl _).prod (PartialHomeomorph.pi fun _ ↦ Complex.polarCoord)
+
+theorem polarCoord_target_eq_polarCoordReal_target :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean:164]: Maybe this and the next one could be `simp`.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/PolarCoord.lean:164]: In fact, it's better if they are not: lint error for one and breaking some proof for the other one.

Thanks for the review!
